2121-12-13 08:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2121-12-12**] 08:00 AM
 EKG - At [**2121-12-12**] 08:04 AM
 STOOL CULTURE - At [**2121-12-12**] 05:09 PM
   Called to assess pt tachypneic to 40's. FSBS 120's, satting very well.
   BP in 120's and pulse 90, temp 100.5 though.
   Pt able to mouth the word "NO" when asked if in pain. Per nursing, pt
   is agitated and anxious. Received Ativan earlier 5am and some Dilaudid
   for pain 1mg by 615am
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2121-12-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2121-12-12**] 12:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-13**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 91 (74 - 91) bpm
   BP: 116/53(70) {81/43(52) - 119/71(83)} mmHg
   RR: 30 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    640 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                    450 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    599 mL
                                                                    140 mL
   Urine:
                                                                    199 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                       41 --> LOS even  mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 368 (368 - 587) mL
   PS : 18 cmH2O
   RR (Set): 0
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.44/53/89/31/9   YESTERDAY MORNING
   Ve: 18.3 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Awake, alert, tachypneic but not agonal. Tries to answer but has trach
   in, other times will not attempt to answer questions and stares
   blankly. Lungs with good air movement, fairly clear. Heart tachycardic
   without murmurs. Abd obese, no tenderness to palpation. No BLE edema. L
   PICC in place.
   Labs / Radiology
   302 K/uL
   7.3 g/dL
   92 mg/dL
   1.8 mg/dL
   31 mEq/L
   5.4 mEq/L   ELEVATED
   48 mg/dL
   105 mEq/L
   145 mEq/L
   24.1 %
   10.0 K/uL
        [image002.jpg]
                            [**2121-12-12**]  08:19 AM
                            [**2121-12-12**]  10:53 AM
                            [**2121-12-13**]  02:06 AM
   WBC
   12.4
   10.0  DOWN
   Hct
   26.1
   24.1  WITHIN BASELINE
   Plt
   354
   302
   Cr
   1.5
   1.8
   TCO2
   37
   Glucose
   111
   92
   Other labs: PT / PTT / INR:16.6/28.3/1.5  THIS AM, STABLE ,
   Differential-Neuts:86.1 %, Lymph:7.0 %, Mono:5.0 %, Eos:1.6 %, Ca++:9.3
   mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: [**12-12**] Dig 0.7
   Imaging: [**12-13**] CXR not appreciably changed
   [**12-12**] CXR
   FINDINGS: As compared to the previous examination, the tracheostomy
   tube is in unchanged position. In unchanged manner, the lung volumes
   are overall low.
   The transparency of the right hemithorax has further decreased, most
   likely due to a small pleural effusion and a progression of the
   pre-existing right basal atelectasis. Perihilar haze and increase in
   diameter of the pulmonary vessels suggest mild pulmonary edema.
   Unchanged mild cardiomegaly. No newly occurred focal parenchymal
   opacities suggesting pneumonia.
   Microbiology: [**12-12**] Cdiff negative
   **FINAL REPORT [**2121-12-9**]**
      GRAM STAIN (Final [**2121-12-6**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2121-12-9**]):
         Commensal Respiratory Flora Absent.
         PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
            OF THREE COLONIAL MORPHOLOGIES.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                PSEUDOMONAS AERUGINOSA
                                |
   CEFEPIME--------------     4 S
   CEFTAZIDIME-----------   <=1 S
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     2 S
   MEROPENEM-------------     4 S
   PIPERACILLIN/TAZO-----     8 S
   TOBRAMYCIN------------   <=1 S
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)\
   73 y/o male with multiple medical problems, most recently being treated
   for pseudomonal sepsis, with afib/aflutter, liver failure, now s/p
   asystolic episode following trach removal.
   # Tachypnia this am:
   - Getting an ABG now
   - CXR this morning not appreciably changed
   - Consider treating for agitation/delirium if ABG within reason --> Has
   been getting Ativan/Dilaudid but no antipsychotics --> would consider
   getting EKG and Haldol or Seroquel later this am
   # Hypotension: Unclear etiology, but may be due to myocardial stunning
   in context of prolonged bradycardia/asystole and hypoxia.  No clear
   evidence for new infectious process at this time. On [**11-28**] echo patient
   with preserved EF of 70%. No evidence of acute ischemic episode on
   prior EKG.
   - Currently MAP 66, not on pressors.
   - IVF boluses for poor UOP only, has known pulm edema so need to be
   careful with IVF's
   - Hold anti HTN meds
   - Patient is not a candidate for pressors.
   # Respiratory failure: Patient trached, had apnea following code.
   - F/u ABG this am
   - Continue support with ventilator
   - ABG this AM
   - Wean ventilator as possible.
   # Renal Failure
   - Pt with rising K and Cr but not a candidate for HD, will trend
   - Renally dose mediations
   # Pseudomonas Infection: Continue Meropenem, day 15/15.
   - Will watch fever curve as had low grade fever this am
   - Will consider continuing ABx if spikes through today
   # Afib/Flutter:
   - Continue anticoagulation with coumadin, adjust upwards for goal [**2-18**].
   - Continue digoxin, recheck levels.
   - Continue ASA
   # Change in mental status: ? anoxic brain injury although
   neurologically intact other than global lack of function.  Unclear if
   patient received drugs peri-code.
   - Continue to monitor
   - Avoid seroquel at this time.
   # Depression: continue Paxil.
   # Fungal Gluteal rash: clotrimazole.
   # DM: Patient not requiring insulin on floor, will follow with
   fingersticks TID.
   # Liver failure:
   - Continue lactulose when patient tolerating tube feeds.
   - F/U Path from liver biopsy
   FEN: No IVF, replete electrolytes, NPO
   Prophylaxis: on coumadin
   Access: peripherals
   Code:  DNR/DNI as above.
   Communication: Patient's daughter (# in chart)
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2121-12-12**] 07:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2121-12-13 14:55:00 Physician Attending Progress Note
Chief Complaint: Chronic respiratory failure, pleural effusions,
   pneumonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with episode of tachypnea this AM. Patient denied pain. Nurses
   felt patient was anxious; had been given ativan last night. ABG showed
   an acute respiratory alkalosis with additional metabolic alkalosis.
   Staff noted that when they left the room the HR and respiratory rate
   would decrease. On PSV with good O2 sats. Now on trach mask.
   Tmaz 100.5.
   C diff negative yesterday.
   Day 15 of meropenem.
   24 Hour Events:
 NASAL SWAB - At [**2121-12-12**] 08:00 AM
 EKG - At [**2121-12-12**] 08:04 AM
 STOOL CULTURE - At [**2121-12-12**] 05:09 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2121-12-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Coumadin, lactulose, vit D, protonix, digoxin, asa, paroxitine.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-13**] 02:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 85 (78 - 94) bpm
   BP: 126/67(80) {98/44(58) - 126/71(83)} mmHg
   RR: 16 (7 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    640 mL
                                                                    160 mL
   PO:
             TF:
   IVF:
                                                                    450 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    599 mL
                                                                    605 mL
   Urine:
                                                                    199 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     41 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 433 (368 - 587) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.57/35/80.[**Numeric Identifier 176**]/31/9
   Ve: 6.3 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess with trach., Movement: Not
   assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   302 K/uL
   92 mg/dL
   1.8 mg/dL
   31 mEq/L
   5.4 mEq/L
   48 mg/dL
   105 mEq/L
   145 mEq/L
   24.1 %
   10.0 K/uL
        [image002.jpg]
                            [**2121-12-12**]  08:19 AM
                            [**2121-12-12**]  10:53 AM
                            [**2121-12-13**]  02:06 AM
                            [**2121-12-13**]  08:29 AM
   WBC
   12.4
   10.0
   Hct
   26.1
   24.1
   Plt
   354
   302
   Cr
   1.5
   1.8
   TCO2
   37
   33
   Glucose
   111
   92
   Other labs: PT / PTT / INR:16.6/28.3/1.5, Differential-Neuts:86.1 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, Ca++:9.3
   mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ANEMIA
   ======================
   Episode of tachypnea possibly related to anxiety; patient denies that
   he had discomfort earlier today - does admit to feeling scared. Would
   still get ECG to be sure there was no evidence of ischemia. Doubt PE;
   patient on coumadin chronically, although INR a bit low recently.
   Has completed course of antibiotics for pneumonia.
   Heart rate well controlled.
   Creat up slightly; electrolytes show elevated potassium. Hold fluids
   even today; will give lasix today; urine output has been relatively
   low.
   Hct down slightly; not at transfusion threshold. No evidence of
   bleeding.
   Continues on lactulose.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2121-12-12**] 07:21 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes

2121-12-14 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2121-12-13**] 01:15 PM
   - Lasix 80mg IV x1 --> goal I&O even to negative --> 1130pm negative
   750cc's, had good UOP response
   - start seroquel 50 [**Hospital1 **] prn; stop ativan; if giving a lot of seroquel
   then get EKG
   - meropenem course done, d/c
   - increased coumadin dose
   - Restarted TF's
   - Check 6 pm ABG to f/u alkalemia from the morning --> 7.35/64/111/37
   on trach mask 50% --> CO2 back to baseline (elevated), implying not as
   tachypneic (good) --> 1030pm ABG 7.45/48/96/34 (even better) on trach
   mask, 35%, not as tachypneic
   - 930pm lytes: Na 145 --> 146 (increase free water flushes), K improved
   5.4 --> 4.6, HCO3 went up 31 --> 34, Cr up a little 1.8 --> 2.0
   - 1am had decreased UOP so given 500cc bolus
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2121-12-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-12-13**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-14**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.3
C (97.4
   HR: 93 (85 - 114) bpm
   BP: 114/64(78) {87/48(57) - 138/82(95)} mmHg
   RR: 18 (7 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    375 mL
                                                                    300 mL
   PO:
                  TF:
                                                                     40 mL
                                                                    170 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    190 mL
   Urine:
                                                                    715 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -740 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 433 (368 - 433) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.45/48/95.[**Numeric Identifier 143**]/34/7
   Ve: 6.3 L/min
   PaO2 / FiO2: 274
   Physical Examination
   Awake, alert, tachypneic but not agonal. Tries to answer but has trach
   in, other times will not attempt to answer questions and stares
   blankly. Lungs with good air movement, fairly clear. Heart tachycardic
   without murmurs. Abd obese, no tenderness to palpation. No BLE edema. L
   PICC in place.
   Labs / Radiology
   265 K/uL
   7.0 g/dL
   97 mg/dL
   2.0 mg/dL
   34 mEq/L
   4.8 mEq/L
   55 mg/dL
   107 mEq/L
   148 mEq/L
   22.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2121-12-12**]  08:19 AM
                            [**2121-12-12**]  10:53 AM
                            [**2121-12-13**]  02:06 AM
                            [**2121-12-13**]  08:29 AM
                            [**2121-12-13**]  05:54 PM
                            [**2121-12-13**]  09:27 PM
                            [**2121-12-13**]  10:25 PM
                            [**2121-12-14**]  01:29 AM
   WBC
   12.4
   10.0
   7.5
   Hct
   26.1
   24.1
   22.8
   Plt
   354
   302
   265
   Cr
   1.5
   1.8
   2.0
   2.0
   TCO2
   37
   33
   37
   34
   Glucose
   111
   92
   102
   97
   Other labs: PT / PTT / INR:16.6/28.3/1.5, Differential-Neuts:86.1 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, Ca++:9.4
   mg/dL, Mg++:2.5 mg/dL, PO4:4.9 mg/dL
   Imaging: [**12-13**] CXR: Overall findings are suggestive of mild pulmonary
   edema. There is no focal pulmonary consolidation.
   [**12-14**] CXR: worsening edema.  ? left sided opacity.
   Microbiology: [**12-12**] cdiff negative
   [**12-6**] pseudomonas, cipro resistant.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   73 y/o male with multiple medical problems, most recently being treated
   for pseudomonal sepsis, with afib/aflutter, liver failure, now s/p
   asystolic episode following trach removal.
   # Tachypnia this am: Improved this morning.
   Per nursing pt gets very agitated and anxious, has baseline delirium
   likely on top of dementia. This was seen during his last MICU course.
   When left alone this morning, pt seen to be breathing at a normal rate
   and very calm.
   - Getting an ABG now
   - CXR this morning not appreciably changed
   - Consider treating for agitation/delirium if ABG within reason --> Has
   been getting Ativan/Dilaudid but no antipsychotics --> will  get EKG if
   pt starts on scheduled Haldol or Seroquel later this am
   # Hypotension:  Off of pressors, holding metoprolol.  BPs have
   improved, though we are still not sure why he became acutely hypotense.
   Unclear etiology, but may be due to myocardial stunning in context of
   prolonged bradycardia/asystole and hypoxia.  No clear evidence for new
   infectious process at this time. On [**11-28**] echo patient with preserved
   EF of 70%. No evidence of acute ischemic episode on prior EKG. BP
   currently are improved and pt is not on pressors.
   - Currently MAP 66, not on pressors.
   - Hold anti HTN meds
   - Patient is not a candidate for pressors.
   # Respiratory failure: Patient trached, had apnea following code.
   Looks great on trach mask this morning.  Back to his baseline.
   - F/u ABG this am
   - Will diurese this am with 80mg IV Lasix x1 and f/u UOP, with goals
   for today to keep even
   # Renal Failure:  Patient has CKD after failure this summer.  Had been
   down to Cr of 1.2, now following code, Cr has been climbing.
   - Pt with rising K and Cr but not a candidate for HD, will trend
   - Renally dose mediations
   # Pseudomonas Infection: stop Meropenem today, day 15/15.
   - Will watch fever curve as had low grade fever this am
   - Will consider continuing ABx if spikes through today
   # Afib/Flutter:
   - INR subTx this am, so will increase Coumadin to 3mg / day.
   - Continue digoxin, recheck levels.
   - Continue ASA
   # Depression: continue Paxil.
   # Fungal Gluteal rash: clotrimazole.
   # DM: Patient not requiring insulin on floor, will follow with
   fingersticks TID.
   # Liver failure:
   - Continue lactulose when patient tolerating tube feeds.
   - F/U Path from liver biopsy
   FEN: No IVF, replete electrolytes, NPO
   Prophylaxis: on coumadin
   Access: peripherals
   Code:  DNR/DNI as above.
   Communication: Patient's daughter (# in chart)
   Disposition: pending clinical improvement

2121-12-14 11:41:00 Physician Attending Progress Note
Chief Complaint: s/p cardiac arrest, respiratory failure, acute renal
   failure, hypernatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did well on trach mask yesterday.
   Responded to lasix well and potassium down.
   Patient awake but communication with him is difficult (?delirium).
   Completed meropenem. WBC trending downward.
   Creat up slightly in the past several days.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2121-12-13**] 01:15 PM
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2121-12-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-12-13**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-14**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 99 (85 - 114) bpm
   BP: 132/70(83) {87/48(57) - 138/82(95)} mmHg
   RR: 25 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    375 mL
                                                                    580 mL
   PO:
                  TF:
                                                                     40 mL
                                                                    360 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    335 mL
   Urine:
                                                                    715 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -740 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 98%
   ABG: 7.45/48/95.[**Numeric Identifier 143**]/34/7
   PaO2 / FiO2: 274
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   Expiratory on right, No(t) Diminished: , No(t) Absent : , Rhonchorous:
   Diffuse coarse large airway sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to full asssess with trach, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   265 K/uL
   97 mg/dL
   2.0 mg/dL
   34 mEq/L
   4.8 mEq/L
   55 mg/dL
   107 mEq/L
   148 mEq/L
   22.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2121-12-12**]  08:19 AM
                            [**2121-12-12**]  10:53 AM
                            [**2121-12-13**]  02:06 AM
                            [**2121-12-13**]  08:29 AM
                            [**2121-12-13**]  05:54 PM
                            [**2121-12-13**]  09:27 PM
                            [**2121-12-13**]  10:25 PM
                            [**2121-12-14**]  01:29 AM
   WBC
   12.4
   10.0
   7.5
   Hct
   26.1
   24.1
   22.8
   Plt
   354
   302
   265
   Cr
   1.5
   1.8
   2.0
   2.0
   TCO2
   37
   33
   37
   34
   Glucose
   111
   92
   102
   97
   Other labs: PT / PTT / INR:16.6/28.3/1.5, Differential-Neuts:86.1 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, Ca++:9.4
   mg/dL, Mg++:2.5 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   =======================
   Hyperkalemia improved with lasix and increased urine output.
   Has done well off vent for th past 24 hours. Has required suctioning
   about every 4 hours. Completed course of meropenem.
   Mental status gradually improving.
   Diarrhea persists. C diff negative. Continues on lactulose.
   Creat up slightly in the past few days. Hold fluid balance even.
   Hct drifting down. Check stool guaiac. Not at threshold for
   transfusion.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2121-12-12**] 07:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 25 minutes